US07572794B2
2-[(2-Bromo-pyridin-4-ylmethyl)-amino]-N-(7-methoxy-isoquinolin-3-yl)benzamide was prepared from 2-[(2-bromo-pyridin-4-ylmethyl)-amino]-benzoic acid methyl ester and 3-amino-7-methoxyisoquinoline in analogy to the procedures detailed in WO2004/013102, particularly Example 6A; supra; 1H-NMR (300 MHz, d6-DMSO) 10.62 (1H, s), 9.10 (1H, s), 8.51 (1H, s), 8.32 (1H, d), 8.11 (1H, t), 7.83-7.90 (2H, m), 7.60 (1H, s), 7.50 (1H, m), 7.38-7.41 (2H, m), 7.27 (1H, t), 6.66 (1H, t), 6.55 (1H, d), 4.54 (2H, d), 3.91 (3H, s).

reactant | 2-[(2-bromo-pyridin-4-ylmethyl)-amino]-benzoic acid methyl ester | COC(C1=C(C=CC=C1)NCC1=CC(=NC=C1)Br)=O | C14H13BrN2O2
reactant | 3-amino-7-methoxyisoquinoline | NC=1N=CC2=CC(=CC=C2C1)OC | C10H10N2O
product | 2-[(2-Bromo-pyridin-4-ylmethyl)-amino]-N-(7-methoxy-isoquinolin-3-yl)benzamide | BrC1=NC=CC(=C1)CNC1=C(C(=O)NC=2N=CC3=CC(=CC=C3C2)OC)C=CC=C1 | C23H19BrN4O2
